US08623889B2
Step 2: 3-ethynyl-5-fluoro-4-methylpyridine
To a solution of 2-(6-chloro-5-fluoro-4-methyl-3-pyridyl)ethynyl-trimethyl-silane (2300 mg, 9.5 mmol) in AcOH (12 mL) was added zinc (1200 mg, 19 mmol). The mixture was heated at 70° C. for 1 hour. The reaction mixture was diluted with ethyl acetate (50 mL), filtered over Celite, evaporated in vacuo and then re-dissolved in ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate solution (20 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was dissolved in MeOH (15 mL) and treated with potassium carbonate (270 mg, 1.9 mmol). The reaction mixture was stirred for 15 minutes at room temperature and then diluted with dichloromethane (50 mL), filtered over Celite, and concentrated in vacuo to provide a residue that was purified by flash chromatography (40 g, Silica, 0-50% diethyl ether in pentane). Desired fractions were combined and evaporated in vacuo to afford the title compound as colorless, crystalline solid (1005 mg, 82%). 1H NMR (400 MHz, CDCl3) δ 8.46 (s, 1H), 8.33 (s, 1H), 3.42 (s, 1H), 2.40 (s, 3H).

reactant | 2-(6-chloro-5-fluoro-4-methyl-3-pyridyl)ethynyl-trimethyl-silane | 9.5 mmol, 2300 mg | ClC1=C(C(=C(C=N1)C#C[Si](C)(C)C)C)F | C11H13ClFNSi
reactant | potassium carbonate | 1.9 mmol, 270 mg | C([O-])([O-])=O.[K+].[K+]
solvent | AcOH | 12 mL | CC(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | zinc | 19 mmol, 1200 mg | [Zn] | Zn
product | 3-ethynyl-5-fluoro-4-methylpyridine | C(#C)C=1C=NC=C(C1C)F | C8H6FN
